US08053440B2
A mixture of 3-chloro-4-hydroxy-benzaldehyde (227 mg, 1.45 mmol), (2-bromoethoxy)-tert-butyldimethylsilane (347 mg, 1.45 mmol), cesium carbonate (709 mg, 2.18 mmol) and DMSO (2 mL) was stirred at 80° C. for 17 h. The reaction mixture was cooled to room temperature and water (50 mL) was added. The resulting precipitate was filtered off, washed with water, air-dried, dissolved in a small amount of ethyl acetate and purified by column chromatography. 4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-3-chloro-benzaldehyde was obtained as a white solid (yield: 267 mg, 58%). To a 100 mL round-bottomed flask was added 2-amino-4,6-dimethoxy-benzamide (166 mg, 0.85 mmol), 4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-3-chloro-benzaldehyde (267 mg, 0.85 mmol), p-toluenesulfonic acid monohydrate (21 mg, 0.11 mmol), sodium hydrogensulfite (216 mg, 1.2 mmol) and dimethylacetamide (5 mL). The mixture was stirred in a 150° C. oil bath under nitrogen for 17 h. After cooling to room temperature, water (50 mL) was added. The precipitate was filtered off, washed with water and air-dried. The crude product was purified by column chromatography to give 2-(3-chloro-4-(2-hydroxyethoxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one (45 mg, 23%). Selected data: MS (ES) m/z: 377.03; MP 287-288° C. (decomposed).

reactant | 2-amino-4,6-dimethoxy-benzamide | 0.85 mmol, 166 mg | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-3-chloro-benzaldehyde | 0.85 mmol, 267 mg | C(C)(C)(C)[Si](OCCOC1=C(C=C(C=O)C=C1)Cl)(C)C | C15H23ClO3Si
reactant | p-toluenesulfonic acid monohydrate | 0.11 mmol, 21 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogensulfite | 1.2 mmol, 216 mg | S(=O)(O)[O-].[Na+]
solvent | water | 50 mL | O | H2O
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
product | 2-(3-chloro-4-(2-hydroxyethoxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 45 mg, 23% | ClC=1C=C(C=CC1OCCO)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C18H17ClN2O5
